US07662771B2
5-[4-(5-Chloro-2-methoxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester
Combine 2-bromo-1-(5-chloro-2-methoxy-phenyl)-ethanone (12.0 g, 46 mmol) with 5-carbamoyl-pentanoic acid methyl ester (12.7 g, 79.9 mmol) and heat the neat mixture in a sealed vessel at 120-140° C. for about 6 h. Cool the mixture and add methanol and allow the mixture to stir overnight at room temperature. Concentrate the mixture and partition the residue between aq NaHCO3 and EtOAc. Dry the combined extracts over Na2SO4 and concentrate. Chromatography over silica gel (CHCl3) allows for recovery of 5-[4-(5-chloro-2-methoxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (5.5 g, 37%). MS (ES): (M+1)+ 324.1, 326.1 m/z.

reactant | 2-bromo-1-(5-chloro-2-methoxy-phenyl)-ethanone | 46 mmol, 12.0 g | BrCC(=O)C1=C(C=CC(=C1)Cl)OC | C9H8BrClO2
reactant | 5-carbamoyl-pentanoic acid methyl ester | 79.9 mmol, 12.7 g | COC(CCCCC(N)=O)=O | C7H13NO3
solvent | methanol | CO | CH4O
product | 5-[4-(5-Chloro-2-methoxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | COC(CCCCC=1OC=C(N1)C1=C(C=CC(=C1)Cl)OC)=O | C16H18ClNO4
